2137-06-01 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2137-5-31**] 10:12 PM
 INDWELLING PORT (PORTACATH) - START [**2137-6-1**] 12:30 AM
   Right side of the chest.
   - CE - TnT 0.47 (0.41), CK 175 (119), and MBI 8 (7)
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2137-6-1**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-1**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 93 (91 - 102) bpm
   BP: 100/75(81) {87/58(65) - 107/82(87)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             86 mL
   PO:
             TF:
   IVF:
   86 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    225 mL
   Urine:
   225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 527 (340 - 527) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 15.7 L/min
   Physical Examination
   Gen: On BiPaP
   HEENT: Perrl, eomi, sclerae anicteric. NIV mask in place.
   CV: Nl S1+S2
   Pulm: Rhonchorous throughout bilaterally. Dullness to percussion at
   right base [**1-11**] way up lung field.
   Abd: S/NT/ND +bs
   Ext: No c/c/e
   Labs / Radiology
   389 K/uL
   10.0 g/dL
   126 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.7 mEq/L
   30 mg/dL
   103 mEq/L
   136 mEq/L
   30.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2137-6-1**]  03:11 AM
   WBC
   6.2
   Hct
   30.0
   Plt
   389
   Cr
   1.3
   TropT
   0.47
   Glucose
   126
   Other labs: PT / PTT / INR:16.2//1.4, CK / CKMB /
   Troponin-T:175/14/0.47, Lactic Acid:1.5 mmol/L, Ca++:8.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6616**] is a 75 year old female with metastatic colon cancer
   admitted from oncology clinic with dyspnea and hypoxia.
   .
   # Dyspnea: Stable overnight on BiPaP. Likely from worsening metastatic
   parenchymal lung disease, right lower lobe collapse secondary to
   effusion.  Less likely to be related to erbitux or malignant
   pericardial effusion.
   - Wean BiPaP as tolerated
   - Hold off on H2B, benadryl, and hydrocort for now.
   - Hold off on antimicrobials. If patient spikes or becomes
   hemodynamically stable would consider adding broad spectrum
   antibiotics.
   - Discuss with IP regarding diagnostic paracentesis versus pleurex
   catheter placement.
   # Arrythmia: Precipitating event likely tachypnea and hypoxia now
   resolved after NIV initiation.
   - Monitor on telemetry
   - Consider TTE in AM to assess LV function and for pericardial
   effusion.
   .
   # CV: Increase in TnT to 0.41 with 8% MBI. BNP also mildly elevated to
   700 suggesting element of failure although patient does not appear
   markedly volume overloaded on exam.  Per discussion with cardiology
   while patient in ED, patient heparinized overnight.  Cardiac biomarker
   increase likely represents demand ischemia in setting of afib with RVR
   and transient hypotension.  Given comorbodities most importantly
   metastatic colon CA, plan for conservative medical management at this
   time.
   - Rule out ACS with serial cardiac biomarkers and repeat ECG
   - Hold heparin gtt, convert to heparin SQ.
   - Continue ASA 325 mg daily. Hold atenolol and [**Last Name (un) **].
   - Check lipid panel, start simvastatin 80 mg daily
   - As above, consider surface echocardiogram
   - Goal TBB -500 to even today.
   .
   # BP: Patient with BP trending down in ED. Per patient and daughter,
   SBP usually in 100s during periods when she is receiving chemotherapy.
   - Hold atenolol, [**Last Name (un) **], and HCTZ.
   .
   # Colon CA: Patient with extensive mets on palliative chemotherapy.
   Discuss with patient long-term goals of care.
   - Discuss with primary oncologist
   - Restart coumadin for portacath after thoracentesis.
   .
   # Hypothyroid: Continue levothyroxine.
   .
   # Iron deficiency anemia: Hct at baseline.
   - Trend hct.
   .
   FEN: Regular, replete as necessary
   PPx: Heparin SQ
   Access: PIV, porta-cath
   Code: DNR, ok to intubate. No CVL (confirmed with patient)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-6-1**] 12:30 AM
   18 Gauge - [**2137-6-1**] 01:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-06-02 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mrs. [**Known lastname 6616**] is a 75 year old female with metastatic
   colon cancer admitted from oncology clinic with dyspnea and hypoxia.
   24 Hour Events:
 EKG - At [**2137-6-1**] 10:30 AM
 EKG - At [**2137-6-2**] 03:10 AM
   [**6-2**]
   - had diag/therapeutic [**Female First Name (un) **] with removal of 1 L serosanguinous fluid
   and subjective improvement in breathing.
   - after [**Female First Name (un) **], was able to go off bipap and stay on face mask, had abg
   that looked good
   - anxious and got several boluses of ativan
   - stopped heparin gtt and restarted warfarin for port thrombosis ppx
   - started metoprolol
   - had run of SVT with rate to 168 for few seconds overnight,
   asymptomatic
   - follow-up EKG showed TWIs in inferior leads, anteriolateral leads so
   getting CEs this a.m.
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2137-6-1**] 01:35 PM
   Lorazepam (Ativan) - [**2137-6-1**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2137-6-2**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-2**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 99 (93 - 154) bpm
   BP: 109/71(78) {93/52(59) - 121/82(99)} mmHg
   RR: 26 (10 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    301 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                    301 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    200 mL
   Urine:
                                                                    835 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
                                                                  1,000 mL
   Balance:
                                                                 -1,534 mL
                                                                   -124 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 508 (508 - 640) mL
   PS : 13 cmH2O
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 19 cmH2O
   SpO2: 93%
   ABG: 7.45/31/96.[**Numeric Identifier 7**]/22/0
   Ve: 19.4 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: No(t) Clear : , Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   423 K/uL
   10.6 g/dL
   118 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   30 mg/dL
   105 mEq/L
   140 mEq/L
   31.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2137-6-1**]  03:11 AM
                             [**2137-6-1**]  10:04 AM
                             [**2137-6-1**]  11:24 PM
                             [**2137-6-2**]  03:42 AM
   WBC
   6.2
   9.7
   Hct
   30.0
   31.8
   Plt
   389
   423
   Cr
   1.3
   1.0
   TropT
   0.47
   0.48
   TCO2
   22
   Glucose
   126
   118
   Other labs: PT / PTT / INR:16.2//1.4, CK / CKMB /
   Troponin-T:55/14/0.48, Lactic Acid:1.5 mmol/L, LDH:373 IU/L, Ca++:9.0
   mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6616**] is a 75 year old female with metastatic colon cancer
   admitted from oncology clinic with dyspnea and hypoxia.
   # Dyspnea: Stable overnight on BiPaP. Likely from worsening metastatic
   parenchymal lung disease, right lower lobe collapse secondary to
   effusion.  Less likely to be related to erbitux or malignant
   pericardial effusion.
   - Wean BiPaP as tolerated
   - Hold off on H2B, benadryl, and hydrocort for now.
   - Hold off on antimicrobials. If patient spikes or becomes
   hemodynamically stable would consider adding broad spectrum
   antibiotics.
   - Discuss with IP regarding diagnostic paracentesis versus pleurex
   catheter placement.
   # Arrythmia: Precipitating event likely tachypnea and hypoxia now
   resolved after NIV initiation.
   - Monitor on telemetry
   - Consider TTE in AM to assess LV function and for pericardial
   effusion.
   # CV: Increase in TnT to 0.41 with 8% MBI. BNP also mildly elevated to
   700 suggesting element of failure although patient does not appear
   markedly volume overloaded on exam.  Per discussion with cardiology
   while patient in ED, patient heparinized overnight.  Cardiac biomarker
   increase likely represents demand ischemia in setting of afib with RVR
   and transient hypotension.  Given comorbodities most importantly
   metastatic colon CA, plan for conservative medical management at this
   time.
   - Rule out ACS with serial cardiac biomarkers and repeat ECG
   - Hold heparin gtt, convert to heparin SQ.
   - Continue ASA 325 mg daily. Hold atenolol and [**Last Name (un) **].
   - Check lipid panel, start simvastatin 80 mg daily
   - As above, consider surface echocardiogram
   - Goal TBB -500 to even today.
   # BP: Patient with BP trending down in ED. Per patient and daughter,
   SBP usually in 100s during periods when she is receiving chemotherapy.
   - Hold atenolol, [**Last Name (un) **], and HCTZ.
   # Colon CA: Patient with extensive mets on palliative chemotherapy.
   Discuss with patient long-term goals of care.
   - Discuss with primary oncologist
   - Restart coumadin for portacath after thoracentesis.
   # Hypothyroid: Continue levothyroxine.
   # Iron deficiency anemia: Hct at baseline.
   - Trend hct.
   FEN: Regular, replete as necessary
   PPx: Heparin SQ
   Access: PIV, porta-cath
   Code: DNR, ok to intubate. No CVL (confirmed with patient)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-6-1**] 12:30 AM
   18 Gauge - [**2137-6-1**] 01:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-06-02 10:43:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypoxemic resp failure, dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Dx/Tx [**Female First Name (un) **] - 1 L serosanguinous fluid removed
          -subjective improvement in breathing.
          -able to wean off bipap post
          -abd improved
   - run of SVT with rate to 168 for few seconds overnight, asymptomatic
   - EKG - TWIs in inf leads, anteriolateral leads
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2137-6-1**] 01:35 PM
   Lorazepam (Ativan) - [**2137-6-1**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2137-6-2**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2137-6-2**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.5
C (97.7
   HR: 93 (93 - 154) bpm
   BP: 96/60(69) {93/52(59) - 121/82(96)} mmHg
   RR: 30 (10 - 44) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    301 mL
                                                                    106 mL
   PO:
             TF:
   IVF:
                                                                    301 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,835 mL
                                                                    350 mL
   Urine:
                                                                    835 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
                                                                  1,000 mL
   Balance:
                                                                 -1,534 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 508 (508 - 624) mL
   PS : 13 cmH2O
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.45/31/96.[**Numeric Identifier 7**]/22/0
   Ve: 19.4 L/min
   PaO2 / FiO2: 121
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Diminished: Rt
   base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   423 K/uL
   118 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   30 mg/dL
   105 mEq/L
   140 mEq/L
   31.8 %
   9.7 K/uL
        [image002.jpg]
                             [**2137-6-1**]  03:11 AM
                             [**2137-6-1**]  10:04 AM
                             [**2137-6-1**]  11:24 PM
                             [**2137-6-2**]  03:42 AM
   WBC
   6.2
   9.7
   Hct
   30.0
   31.8
   Plt
   389
   423
   Cr
   1.3
   1.0
   TropT
   0.47
   0.48
   0.42
   TCO2
   22
   Glucose
   126
   118
   Other labs: PT / PTT / INR:16.2//1.4, CK / CKMB /
   Troponin-T:264/22/0.42, Lactic Acid:1.5 mmol/L, LDH:373 IU/L, Ca++:9.0
   mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (NSTEMI)
   - elevated troponin and +CK/MB
   - ASA, heparin
   - presumably demand related setting afib RVR in setting of resp
   distress and hypoxemia
   -given met cancer and demand setting cath not likely to be persued
 HYPOTENSION (NOT SHOCK)
   -in setting of afib rvr
   -now resolved with treatment of resp failure/afib rvr/hypoxemia

 H/O CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - palliative erbetux
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   -able to wean off PPV after effusion
   -? some contribution fluid overload.  keep negative
Rt effusion/RLL collapse
   -new RLL collapse on imaging pre-effusion drainage
   -effusion tapped for 1L.  studies pending
   -likely need CT placement
    Remainder of plan as outlined in today's resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-6-1**] 12:30 AM
   18 Gauge - [**2137-6-1**] 01:17 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2137-06-03 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2137-6-2**] 11:30 AM
 EKG - At [**2137-6-2**] 04:21 PM
   HR 200's SVT alert no CP. but SOB.
 EKG - At [**2137-6-3**] 04:42 AM
   - SVT in 200s, slowed with vagal maneuver to 120s where ECG c/w likely
   MAT vs ? afib, rate control with  metoprolol and IVF. Tachyarrythmia
   intermitent lasting up to 2 minutes (hemodynamically stable).
   - Incresaed WOB with ABG this AM 7.42/40/58
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-6-2**] 07:43 PM
   Metoprolol - [**2137-6-3**] 03:55 AM
   Diltiazem - [**2137-6-3**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-3**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.3
C (95.6
   HR: 96 (90 - 220) bpm
   BP: 110/67(77) {94/59(40) - 120/94(97)} mmHg
   RR: 37 (22 - 45) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,373 mL
                                                                    863 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,253 mL
                                                                    863 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    190 mL
   Urine:
                                                                    830 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    543 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.42/40/58/24/0
   PaO2 / FiO2: 58
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: No(t) Clear : , Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   497 K/uL
   10.4 g/dL
   127 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   27 mg/dL
   103 mEq/L
   139 mEq/L
   30.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2137-6-1**]  03:11 AM
                             [**2137-6-1**]  10:04 AM
                             [**2137-6-1**]  11:24 PM
                             [**2137-6-2**]  03:42 AM
                             [**2137-6-2**]  11:45 AM
                             [**2137-6-2**]  11:01 PM
                             [**2137-6-3**]  04:00 AM
                             [**2137-6-3**]  06:45 AM
   WBC
   6.2
   9.7
   11.1
   Hct
   30.0
   31.8
   30.8
   Plt
   389
   423
   497
   Cr
   1.3
   1.0
   0.7
   0.8
   TropT
   0.47
   0.48
   0.42
   0.30
   0.23
   TCO2
   22
   27
   Glucose
   126
   118
   111
   127
   Other labs: PT / PTT / INR:20.5/39.2/1.9, CK / CKMB /
   Troponin-T:159/12/0.23, Lactic Acid:1.6 mmol/L, LDH:373 IU/L, Ca++:8.8
   mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6616**] is a 75 year old female with metastatic colon cancer
   admitted from oncology clinic with dyspnea and hypoxia.
   # Hypoxic respiratory failure/dyspnea: Successfully weaned off BiPaP
   after therapeutic thoracentesis that was exudative with cytology
   pending.  Likely represents malignant pleural effusion. WOB and O2
   requirement increasing overnight.
   - Discuss with IP regarding pleurex catheter placement.
   - Follow-up pleural fluid cytology
   - Monitor respiratory status, place back on BiPap if necessary. If
   patient requires intubation, she would be difficult to extubate
   successfully
   # Cardiovascular:  On admission, increase in TnT to 0.41 with 8% MBI.
   BNP also mildly elevated to 700 suggesting element of failure although
   patient does not appear markedly volume overloaded on exam.  Per
   discussion with cardiology while patient in ED, patient heparinized
   initially.  Cardiac biomarker increase likely represents demand
   ischemia in setting of afib with RVR and transient hypotension.  Given
   comorbodities most importantly metastatic colon CA, plan for
   conservative medical management at this time and heparin was d/c
d and
   coumadin was restarted.  Went into tachyarrthymia overnight with
   continued cardiac biomarker leak.
   - Continue ASA 325 mg daily.
   - Metoprolol for BP and rate control
   - Continue simvastatin 80 mg daily
   - Consider surface echocardiogram
   - Goal TBB -500 to even today.
   # Colon CA: Patient with extensive mets on palliative chemotherapy.
   Discuss with patient long-term goals of care.  Dr. [**Last Name (STitle) 4297**] saw patient on
   [**2136-6-1**] in the MICU.
   - F/u oncology recs
   - Restart coumadin for portacath now that thoracentesis is complete
   - Family meeting to discuss goals of care.
   # Hypothyroid: Continue levothyroxine.
   # Iron deficiency anemia: Hct at baseline.
   - Trend hct.
   FEN: Regular
   PPx: Heparin SQ until INR therapeutic
   Access: PIV, Portacath
   Code: DNR, ok to intubate. No CVL (confirmed with patient)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-6-1**] 12:30 AM
   18 Gauge - [**2137-6-3**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-06-03 10:35:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, met colon cancer, SVT
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2137-6-2**] 11:30 AM
 EKG - At [**2137-6-2**] 04:21 PM
   HR 200's SVT alert no CP. but SOB.
 EKG - At [**2137-6-3**] 04:42 AM
 episodic narrow complex SVT often spont breakings, some after carotid
   sinus massage or with dilt
 back on bipap this morning due to tachypnea and more work of
   breathing
   History obtained from Patient, Family / [**Hospital 216**] Medical records
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-6-2**] 07:43 PM
   Metoprolol - [**2137-6-3**] 03:55 AM
   Diltiazem - [**2137-6-3**] 05:55 AM
   Lorazepam (Ativan) - [**2137-6-3**] 07:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-3**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 95 (90 - 220) bpm
   BP: 111/68(78) {94/47(40) - 124/94(97)} mmHg
   RR: 28 (22 - 45) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,373 mL
                                                                    896 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  1,253 mL
                                                                    896 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    255 mL
   Urine:
                                                                    830 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    543 mL
                                                                    641 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 607 (607 - 607) mL
   PS : 13 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.42/40/58/24/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 58
   Physical Examination
   General Appearance: Well nourished, Diaphoretic, inc WOB
   Head, Ears, Nose, Throat: Normocephalic, mask ventilation
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   497 K/uL
   127 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.6 mEq/L
   27 mg/dL
   103 mEq/L
   139 mEq/L
   30.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2137-6-1**]  03:11 AM
                             [**2137-6-1**]  10:04 AM
                             [**2137-6-1**]  11:24 PM
                             [**2137-6-2**]  03:42 AM
                             [**2137-6-2**]  11:45 AM
                             [**2137-6-2**]  11:01 PM
                             [**2137-6-3**]  04:00 AM
                             [**2137-6-3**]  06:45 AM
   WBC
   6.2
   9.7
   11.1
   Hct
   30.0
   31.8
   30.8
   Plt
   389
   423
   497
   Cr
   1.3
   1.0
   0.7
   0.8
   TropT
   0.47
   0.48
   0.42
   0.30
   0.23
   TCO2
   22
   27
   Glucose
   126
   118
   111
   127
   Other labs: PT / PTT / INR:20.5/39.2/1.9, CK / CKMB /
   Troponin-T:159/12/0.23, Lactic Acid:1.6 mmol/L, LDH:373 IU/L, Ca++:8.8
   mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (NSTEMI)
   - elevated troponin and +CK/MB, now trending downward
   - ASA, heparin
   - presumably demand related in setting of afib RVR / resp distress and
   hypoxemia
   - given met cancer and demand ischemia setting, cath not likely to be
   pursued
 HYPOTENSION (NOT SHOCK)
   -in setting of afib rvr
   -now resolved with treatment of resp failure/afib rvr/hypoxemia
 TACHYCARDIA
   - narrow complex, asymptomatic
   - break easily either spont, carotid sinus massage or CAB
 H/O CANCER (MALIGNANT NEOPLASM), COLORECTAL (COLON CANCER)
   - palliative erbetux
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   -able to wean off PPV after effusion drained, though now more SOB today
   so restarted
   -? some contribution fluid overload.  keep negative
Rt effusion/RLL collapse
   -new RLL collapse on imaging pre-effusion drainage
   -effusion tapped for 1L.  studies pending
   -likely need tube drainage as will reaccumulate
Code status changed to DNR/I after team d/w family
    Remainder of plan as outlined in today's resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-6-1**] 12:30 AM
   18 Gauge - [**2137-6-3**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-06-04 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mrs. [**Known lastname 6616**] is a 75 year old female with metastatic
   colon cancer admitted from oncology clinic with dyspnea and hypoxia.
   24 Hour Events:
 EKG - At [**2137-6-4**] 02:45 AM
   [**6-2**]
   - SVT in 200s, slowed with vagal maneuver to 120s where ECG c/w likely
   MAT vs ? afib, rate control with  metoprolol and IVF. Tachyarrythmia
   intermitent lasting up to 2 minutes (hemodynamically stable).
   [**6-3**]
   - Incresaed WOB with ABG yesterday AM 7.42/40/58. Placed back on BiPaP,
   failed secondary to increased WOB in the afternoon.
   - Primary oncologist ([**Doctor Last Name 4297**]) met with family. Plan for now to pursue
   pleurex cathteter placement.
   - SVT in 200s, slowed with vagal maneuvers to 120s transiently.
   Improved with diltiazem 5 mg IV.  Increased metoprolol to 50 mg po tid.
   Happened again overnight, given 5 mg dilt x2, 5 mg metoprolol x1 with
   improvement. PO metoprolol given early.
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2137-6-3**] 08:50 PM
   Diltiazem - [**2137-6-4**] 02:36 AM
   Metoprolol - [**2137-6-4**] 02:50 AM
   Heparin Sodium (Prophylaxis) - [**2137-6-4**] 05:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-4**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 87 (84 - 220) bpm
   BP: 108/60(71) {90/15(44) - 122/77(105)} mmHg
   RR: 26 (19 - 39) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,034 mL
                                                                     74 mL
   PO:
             TF:
   IVF:
                                                                  1,034 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    300 mL
   Urine:
                                                                    640 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    394 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 469 (427 - 799) mL
   PS : 13 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.44/40/48/23/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 80
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   385 K/uL
   9.9 g/dL
   115 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   26 mg/dL
   105 mEq/L
   141 mEq/L
   29.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2137-6-1**]  03:11 AM
                             [**2137-6-1**]  10:04 AM
                             [**2137-6-1**]  11:24 PM
                             [**2137-6-2**]  03:42 AM
                             [**2137-6-2**]  11:45 AM
                             [**2137-6-2**]  11:01 PM
                             [**2137-6-3**]  04:00 AM
                             [**2137-6-3**]  06:45 AM
                             [**2137-6-3**]  10:09 PM
                             [**2137-6-4**]  02:29 AM
   WBC
   6.2
   9.7
   11.1
   8.5
   Hct
   30.0
   31.8
   30.8
   29.2
   Plt
   389
   423
   497
   385
   Cr
   1.3
   1.0
   0.7
   0.8
   0.6
   TropT
   0.47
   0.48
   0.42
   0.30
   0.23
   TCO2
   22
   27
   28
   Glucose
   126
   118
   111
   127
   115
   Other labs: PT / PTT / INR:26.3/46.4/2.6, CK / CKMB /
   Troponin-T:159/12/0.23, Lactic Acid:1.6 mmol/L, LDH:373 IU/L, Ca++:8.4
   mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6616**] is a 75 year old female with metastatic colon cancer
   admitted from oncology clinic with dyspnea and hypoxia.
   # Hypoxic respiratory failure/dyspnea: Increased WOB, resp distress,
   and O2 requirement today now back on BiPaP.  CXR demonstrates
   reaccumulation of pleural effusion.  Fluid exudative with cytology
   pending, although likely malignant in etiology.  Back on BIPAP on [**6-3**]
   because of increased work of breathing.  [**Month (only) 8**] benefit from pleurex
   catheter but overall respiratory status severely compromised by
   extensive lung metastases.
   - family meeting regarding expectations, goals of care
   - consider IP consult for pleurex pending family meeting
   # Cardiovascular:  On admission, increase in TnT to 0.41 with 8% MBI.
   BNP also mildly elevated to 700 suggesting element of failure although
   patient does not appear markedly volume overloaded on exam.  Per
   discussion with cardiology while patient in ED, patient heparinized
   initially.  Cardiac biomarker increase likely represents demand
   ischemia in setting of afib with RVR and transient hypotension.  Given
   comorbodities most importantly metastatic colon CA, plan for
   conservative medical management at this time and heparin was d/c
d and
   coumadin was restarted.  Now has runs of tachyarrthymia, question
   re-entrant tachycardia, and not responding to diltiazem or metoprolol
   IV.  Concerning giving risk of demand ischemia and unstable arrythmia.
   ECHO shows LVEF 20%, RV hypokinesis.
   - optimize respiratory status
   - consider adenosine for diagnostic purposes
   - Metoprolol for BP and rate control
   - f/u final ECHO read
   - Continue ASA 325 mg daily.
   - Continue simvastatin 80 mg daily
   # Colon CA: Patient with extensive mets on palliative chemotherapy.
   Discuss with patient long-term goals of care.  Dr. [**Last Name (STitle) 4297**] saw patient on
   [**2136-6-3**] in the MICU, raised possibility of pleurex catheter but
   unlikely to benefit long-term given extensive lung metastatic disese.
   - F/u oncology recs
   - Holding coumadin for portacath now given possibility of repeat
   thoracentesis
   - Family meeting to discuss goals of care.
   # Hypothyroid: Continue levothyroxine.
   # Iron deficiency anemia: Hct at baseline.
   - Trend hct.
   FEN: Regular
   PPx: Heparin SQ as INR subtherapeutic
   Access: PIV, Portacath
   Code: DNR/DNI (confirmed with patient and family)
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-6-1**] 12:30 AM
   18 Gauge - [**2137-6-3**] 04:00 AM
   Prophylaxis:
   DVT: hepar sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-06-05 07:23:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, respiratory distress
   24 Hour Events:
   - Continued to have runs of SVT, received diltiazem and metoprolol and
   broke.
   - Family meeting held, continued DNR/DNI code status. Likely headed
   toward less aggressive care/CMO, but would like to speak to priest this
   AM. Defer pleurex or pigtail catheter placement for now.
   - Continued on BiPaP almost entire night.
   - Started on morphine prn boluses for air hunger.
   History obtained from Patient
   Allergies:
   History obtained from PatientNeurontin (Oral) (Gabapentin)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2137-6-4**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-6-5**] 04:38 AM
   Diltiazem - [**2137-6-5**] 07:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-5**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 124 (85 - 163) bpm
   BP: 114/77(85) {82/44(54) - 117/77(85)} mmHg
   RR: 33 (0 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    990 mL
                                                                     74 mL
   PO:
             TF:
   IVF:
                                                                    990 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    640 mL
                                                                    120 mL
   Urine:
                                                                    640 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 233 (233 - 882) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 26 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 4.4 L/min
   Physical Examination
   General Appearance: On BiPaP
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: No(t) Clear : , Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   445 K/uL
   10.1 g/dL
   105 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   29 mg/dL
   106 mEq/L
   143 mEq/L
   29.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2137-6-1**]  10:04 AM
                             [**2137-6-1**]  11:24 PM
                             [**2137-6-2**]  03:42 AM
                             [**2137-6-2**]  11:45 AM
                             [**2137-6-2**]  11:01 PM
                             [**2137-6-3**]  04:00 AM
                             [**2137-6-3**]  06:45 AM
                             [**2137-6-3**]  10:09 PM
                             [**2137-6-4**]  02:29 AM
                             [**2137-6-5**]  04:50 AM
   WBC
   9.7
   11.1
   8.5
   7.1
   Hct
   31.8
   30.8
   29.2
   29.8
   Plt
   [**Telephone/Fax (3) 6677**]45
   Cr
   1.0
   0.7
   0.8
   0.6
   0.7
   TropT
   0.48
   0.42
   0.30
   0.23
   TCO2
   22
   27
   28
   Glucose
   118
   111
   127
   115
   105
   Other labs: PT / PTT / INR:26.3/46.4/2.6, CK / CKMB /
   Troponin-T:86/8/0.23, Lactic Acid:1.6 mmol/L, LDH:373 IU/L, Ca++:8.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6616**] is a 75 year old female with metastatic colon cancer
   admitted from oncology clinic with dyspnea and hypoxia.
   # Hypoxic respiratory failure/dyspnea: Increased WOB, resp distress,
   and hypoxia with continued BiPaP requirement.  CXR demonstrates
   reaccumulation of pleural effusion.  Fluid exudative with cytology
   pending, and likely malignant in etiology.
   Unclear if patient would benefit from pigtail or pleurex catheter
   placement as patient had minimal symptomatic improvement during
   therapeutic [**Female First Name (un) **] during admission. Family meeting yesterday with
   decision to defer further interventions and for patient to likely move
   towards comfort care today.
   - Continue BiPaP
   - Morphine and benzos prn for comfort and air hunger
   - Family meeting to readdress goals of care today
   - Chaplain and palliative care c/s.
   - Discuss with primary oncologist ([**Doctor Last Name 4297**])
   # Cardiovascular:  On admission, increase in TnT to 0.41 with 8% MBI.
   BNP also mildly elevated to 700 suggesting of failure although patient
   does not appear markedly volume overloaded on exam.  Repeat TTE
   yesterday with marked [**Hospital1 **]-ventricular failure.  Patient with
   intermittent SVT of unclear etiology up to 220s with some improvement
   with diltiazem and metoprolol. SVT likely secondary to worsening
   pulmonary function.
   - Optimize respiratory status
   - Continue metoprolol PO TiD. IV AV nodal blockade as necessary
   - Continue ASA 325
   - Continue simvastatin 80 mg daily
   # Colon CA: Patient with extensive mets on palliative chemotherapy.
   Discuss with patient long-term goals of care.  Dr. [**Last Name (STitle) 4297**] saw patient on
   [**2136-6-3**] in the MICU, raised possibility of pleurex catheter but
   unlikely to benefit long-term given extensive lung metastatic disese.
   - F/u oncology recs
   - Holding coumadin for portacath for now.
   - Family meeting to discuss goals of care as above.
   # Hypothyroid: Continue levothyroxine.
   # Iron deficiency anemia: Hct at baseline.
   - Trend hct.
   FEN: Regular
   PPx: INR therapeutic
   Access: PIV, Portacath
   Code: DNR/DNI (confirmed with patient and family). Family meeting today
   to further discuss goals of care.
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-6-1**] 12:30 AM
   18 Gauge - [**2137-6-3**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-06-06 06:57:00 Physician Resident Progress Note
Chief Complaint: Metastatic colon cancer. Hypoxic respiratory failure.
   24 Hour Events:
   - Palliative care, PCP, [**Name10 (NameIs) **] meeting. Code status changed to comfort
   measures only.
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 6 mg/hour
   Other ICU medications:
   Diltiazem - [**2137-6-5**] 07:00 AM
   Diazepam (Valium) - [**2137-6-5**] 07:28 AM
   Morphine Sulfate - [**2137-6-5**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-6**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 135 (85 - 140) bpm
   BP: 104/60(69) {91/48(55) - 119/77(85)} mmHg
   RR: 16 (13 - 36) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    854 mL
                                                                     27 mL
   PO:
                                                                    180 mL
             TF:
   IVF:
                                                                    674 mL
                                                                     27 mL
   Blood products:
   Total out:
                                                                    525 mL
                                                                     35 mL
   Urine:
                                                                    525 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                     -8 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 998 (328 - 998) mL
   PS : 16 cmH2O
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 70%
   PIP: 23 cmH2O
   SpO2: 91%
   ABG: ////
   Ve: 5.7 L/min
   Physical Examination
   Gen: NAD, resting comfortably
   Labs / Radiology
   445 K/uL
   10.1 g/dL
   105 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   29 mg/dL
   106 mEq/L
   143 mEq/L
   29.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2137-6-1**]  10:04 AM
                             [**2137-6-1**]  11:24 PM
                             [**2137-6-2**]  03:42 AM
                             [**2137-6-2**]  11:45 AM
                             [**2137-6-2**]  11:01 PM
                             [**2137-6-3**]  04:00 AM
                             [**2137-6-3**]  06:45 AM
                             [**2137-6-3**]  10:09 PM
                             [**2137-6-4**]  02:29 AM
                             [**2137-6-5**]  04:50 AM
   WBC
   9.7
   11.1
   8.5
   7.1
   Hct
   31.8
   30.8
   29.2
   29.8
   Plt
   [**Telephone/Fax (3) 6677**]45
   Cr
   1.0
   0.7
   0.8
   0.6
   0.7
   TropT
   0.48
   0.42
   0.30
   0.23
   TCO2
   22
   27
   28
   Glucose
   118
   111
   127
   115
   105
   Other labs: PT / PTT / INR:26.3/46.4/2.6, CK / CKMB /
   Troponin-T:86/8/0.23, Lactic Acid:1.6 mmol/L, LDH:373 IU/L, Ca++:8.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 6616**] is a 75 year old female with metastatic colon cancer
   admitted from oncology clinic with dyspnea and hypoxia.
   #  Hypoxic respiratory failure/dyspnea: Increased WOB, resp distress,
   and hypoxia secondary to lung mets and recurrent pleural effusion.
   Patient transitioned to comfort measures only.
   - Morphine gtt and valium boluses prn titrated to comfort.
   - BiPaP for comfort as necessary
   - PCP and primary oncologist aware.
   # Colon CA: CMO as above.
   # Code status: Comfort measures only. All other medications as held
   except for morphine gtt and valium prn.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2137-6-1**] 12:30 AM
   18 Gauge - [**2137-6-3**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: CMO
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   resident for key portions of the services provided.  I agree with his
   note above, including assessment and plan.  PMH, SH, FH and ROS are
   unchanged from admission except where noted above.
   Appears comfortable. No resp distress. Unresponsive. No longer using
   BiPAP or any supplemental oxygen. Family handling very well. All their
   questions answered.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2137-6-6**] 15:33 ------